US08222416B2
A mixture of 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-3-methyl-butan-2-ol (50 mg, 0.13 mmol) and 10% palladium on activated carbon (15 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 16 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-3-methyl-butan-2-ol (30 mg, 60%): LC/MS m/e calcd for C25H32N2O [M+H]+ 377.55, observed 377.2; 1H NMR (400 MHz, CD3OD) δ ppm 0.80 (d, J=6.82 Hz, 4H) 0.86 (d, J=6.82 Hz, 4H) 1.20-1.31 (m, 1H) 1.46-1.53 (m, 5H) 1.59-1.77 (m, 3H) 1.97 (t, J=6.82 Hz, 1H) 2.05-2.13 (m, 1H) 2.19-2.26 (m, 1H) 4.17 (t, J=7.96 Hz, 1H) 6.33 (s, 1H) 7.04 (dd, J=7.71, 4.93 Hz, 1H) 7.28 (m, J=8.34 Hz, 2H) 7.38 (m, J=8.08 Hz, 2H) 7.89 (dd, J=7.83, 1.26 Hz, 1H) 8.06 (d, J=3.79 Hz, 1H).

reactant | 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-3-methyl-butan-2-ol | 0.13 mmol, 50 mg | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)C(C)(C(C)C)O | C25H30N2O
catalyst | palladium on activated carbon | 15 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-3-methyl-butan-2-ol | 30 mg, 60% | C1(CCCC1)CC(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)C(C)(C(C)C)O | C25H32N2O
